US07674822B2
Step B Carbamate Formation: Addition of methyl chloroformate (0.05 mL, 0.65 mmol) to 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (60 mg, 0.13 mmol) was carried out following a procedure similar to that delineated in Step B, Example 27, affording 43 mg of 7-(Cyclohexylmethyl-methoxycarbonyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (63% yield).

reactant | Carbamate | C(N)([O-])=O
reactant | methyl chloroformate | 0.65 mmol, 0.05 mL | ClC(=O)OC | C2H3ClO2
reactant | 7-(Cyclohexylmethyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.13 mmol, 60 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)NCC2CCCCC2)S1)OCC(=O)OCC | C23H27NO5S2
product | 7-(Cyclohexylmethyl-methoxycarbonyl-amino)-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 43 mg, 63% yield | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)N(C(=O)OC)CC2CCCCC2)S1)OCC(=O)OCC | C25H29NO7S2
